US09359375B2
A solution of (R)-tert-butyl 2-amino-1-cyclopropyl-2-oxoethylcarbamate (300 mg, 1.40 mmol) in 4N HCl in dioxane (8 mL) was stirred at room temperature for 20 min. It was then concentrated in vacuo to give (R)-2-amino-2-cyclopropylacetamide hydrochloride (225 mg).

reactant | (R)-tert-butyl 2-amino-1-cyclopropyl-2-oxoethylcarbamate | 1.40 mmol, 300 mg | NC([C@@H](C1CC1)NC(OC(C)(C)C)=O)=O | C10H18N2O3
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | (R)-2-amino-2-cyclopropylacetamide hydrochloride | 225 mg | Cl.N[C@@H](C(=O)N)C1CC1 | InChI=1S/C5H10N2O.ClH/c6-4(5(7)8)3-1-2-3;/h3-4H,1-2,6H2,(H2,7,8);1H/t4-;/m1./s1
